US07256198B2
Step 3: 3-[5′-{[pyrrolidin-1-yl]sulfonyl}-2′-oxospiro[1,3-dioxane-2,3′-indol]-1′(2′H)-yl]-2-aminobutane
A mixture of 3-[5′-{[pyrrolidin-1-yl]sulfonyl}-2′-oxospiro[1,3-dioxane-2,3′-indol]-1′(2′H)-yl]-2-azidobutane (0.16 g, 0.37 mmoles) and 10% Pd/C in methanol (5 ml) was stirred under a H2 atmosphere (1 atmosphere) overnight at room temperature. The reaction mixture was filtered, and concentrated. The crude product was purified by flash chromatography on silica gel using 40% EtOAc/hexane followed by 1% CH3OH/EtOAc to give the title compound as an off white solid (0.06 g, 40% yield). NMR (400 MHz, DMSO-d6): consistent. MS: (API-ES+) m/z 410 [M+H].

reactant | 3-[5′-{[pyrrolidin-1-yl]sulfonyl}-2′-oxospiro[1,3-dioxane-2,3′-indol]-1′(2′H)-yl]-2-azidobutane | 0.37 mmoles, 0.16 g | N1(CCCC1)S(=O)(=O)C=1C=C2C3(C(N(C2=CC1)C(C(C)N=[N+]=[N-])C)=O)OCCCO3 | C19H25N5O5S
solvent | methanol | 5 ml | CO | CH4O
catalyst | Pd/C | [Pd] | Pd
product | 3-[5′-{[pyrrolidin-1-yl]sulfonyl}-2′-oxospiro[1,3-dioxane-2,3′-indol]-1′(2′H)-yl]-2-aminobutane | N1(CCCC1)S(=O)(=O)C=1C=C2C3(C(N(C2=CC1)C(C(C)N)C)=O)OCCCO3 | C19H27N3O5S
